US07312241B2
(3,5-Dimethoxyphenyl)phenylmethanone (0.34 g, 1.40 mmol), lithium bis (trimethylsilyl)amide (1.0 M solution in THF, 2.81 ml, 2.81 mmol), and cyanomethylphosphonic acid diethyl ester (0.44 ml, 2.81 mmol) in anhydrous THF (5 ml) were treated in the same manner as described above for the synthesis of 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile. The crude material was purified via flash column chromatography (10% EtOAc in hexane) to give 3-(3,5-dimethoxy-phenyl)-3-phenyl-acrylonitrile as an oil (0.33 g, 89%): 1HNMR (DMSO-d6) δ 7.55-7.35 (m, 5H, Ar), 6.67-6.62 (2ts, 1H, Ar), 6.48-6.45 (2ds, 2H, Ar), 6.39 (s, 0.57H, double bond proton of one isomer), 6.34 (s, 0.43H, double bond proton of the other isomer), 3.76 (s, 3H, OCH3), 3.73 (s, 3H, OCH3); 13C NMR (CDCl3) δ 163.2, 163.1, 160.9, 160.9, 141.2, 138.9, 138.7, 137.0, 130.6, 130.2, 129.7, 128.8, 128.6, 128.5, 117.9, 117.8, 107.8, 107.0, 102.3, 102.2, 95.3, 95.1, 55.7, 55.6; Anal. Calcd. For C17H15NO2 (+0.03 H2O): C, 76.80; H, 5.71; N, 5.27. Found: C, 76.41; H, 5.40; N, 5.18.

reactant | (3,5-Dimethoxyphenyl)phenylmethanone | 1.40 mmol, 0.34 g | COC=1C=C(C=C(C1)OC)C(=O)C1=CC=CC=C1 | C15H14O3
reactant | lithium bis (trimethylsilyl)amide | 2.81 mmol, 1.0 M, 2.81 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | cyanomethylphosphonic acid diethyl ester | 2.81 mmol, 0.44 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | 3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-3-(3,5-dimethoxyphenyl)acrylonitrile | O1CCOC2=C1C=CC(=C2)C(=CC#N)C2=CC(=CC(=C2)OC)OC | C19H17NO4
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | 3-(3,5-dimethoxy-phenyl)-3-phenyl-acrylonitrile | 0.33 g, 89% | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC=CC=C1 | C17H15NO2
